US07888362B2
Boron tribromide (2M dichloromethane solution, 1.0 ml) was added to a dichloromethane (50 ml) solution of 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one (0.16 g) while being stirred under ice-cooling and stirred at room temperature for 3 days. Water was added to the reaction solution, which was then stirred at room temperature for 0.5 hour. Precipitated crystals were separated by filtration, recrystallized from ethyl acetate and thereby 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-hydroxy-2H-isoquinolin-1-one hydrobromide (0.13 g) was obtained in the form of a white powder.

reactant | Boron tribromide | 2M, 1.0 ml | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one | 0.16 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC(=CC=C1C=C2)OC)=O | C26H29N3O2S
solvent | Water | O | H2O
product | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-hydroxy-2H-isoquinolin-1-one hydrobromide | 0.13 g | Br.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC(=CC=C1C=C2)O)=O | InChI=1S/C25H27N3O2S.BrH/c29-20-7-6-19-8-12-28(25(30)22(19)18-20)11-2-1-10-26-13-15-27(16-14-26)23-4-3-5-24-21(23)9-17-31-24;/h3-9,12,17-18,29H,1-2,10-11,13-16H2;1H
